US04353919
19.7 gm (82 mmols) of 5,6-dimethoxy-2-ethoxybenzothiazole were dissolved in 500 ml of ethanol and admixed dropwise at the boiling point with 64 ml of concentrated aqueous hydrochloric acid. After refluxing the mixture for 3 hours, the solvent was evaporated. The residue was recrystallized from methanol. 8.1 gm (48% of theory) of 5,6-dimethoxy-2(3H)-benzothiazolone having a melting point of 191° C. were obtained.

reactant | 5,6-dimethoxy-2-ethoxybenzothiazole | 82 mmols, 19.7 gm | COC=1C(=CC2=C(N=C(S2)OCC)C1)OC | C11H13NO3S
reactant | hydrochloric acid | 64 ml | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 5,6-dimethoxy-2(3H)-benzothiazolone | 8.1 gm, 48% | COC=1C(=CC2=C(NC(S2)=O)C1)OC | C9H9NO3S
